US08445510B2
4-Bromo-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1-methyl-1H-pyrazole
A mixture of (4-bromo-1-methyl-1H-pyrazol-3-yl)methanol (100.0 mg, 0.5235 mmol), tert-butyldimethylsilyl chloride (236.7 mg, 1.570 mmol), 4-dimethylaminopyridine (12.79 mg, 0.1047 mmol), 1H-Imidazole (106.9 mg, 1.570 mmol) and DCM (40 mL, 700 mmol) was stirred at rt for 1 h. The material was transferred to a separatory funnel and partitioned between DCM and water. The organic layer was dry-loaded onto silica gel for column chromatography, eluting with 2% EtOAc/hexanes. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a clear oil. MS (ES+): m/z=305.06/307.06 (100/100) [MH+]. HPLC: tR=1.82 min (polar—3 min, UPLC-ACQUITY).

reactant | (4-bromo-1-methyl-1H-pyrazol-3-yl)methanol | 0.5235 mmol, 100.0 mg | BrC=1C(=NN(C1)C)CO | C5H7BrN2O
reactant | tert-butyldimethylsilyl chloride | 1.570 mmol, 236.7 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 1H-Imidazole | 1.570 mmol, 106.9 mg | N1C=NC=C1 | C3H4N2
reactant | DCM | 700 mmol, 40 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.1047 mmol, 12.79 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-Bromo-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1-methyl-1H-pyrazole | BrC=1C(=NN(C1)C)CO[Si](C)(C)C(C)(C)C | C11H21BrN2OSi
